US07576215B2
[4-({3-[3-(HYDROXYMETHYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]ACETIC ACID
4-Bromomethylphenylacetic acid (1.86 g, 8.13 mmol) is taken into CH2Cl2 (80 mL) and to this is added Cs2CO3 (9.63 g, 29.56 mmol) and the mixture is stirred for 1 hour. Next, 3-[3-(hydroxymethyl)-8-(trifluoromethyl)quinolin-4-yl]phenol (2.36 g, 7.39 mmol) is added and the reaction is stirred overnight. The reaction is not complete, therefore an additional 3 g of 4-bromomethylphenylacetic acid and 2 g of Cs2CO3 is added and stirring is continued for another overnight period. The reaction is neutralized with HCl and then the solvent is removed. The resulting material is taken up into THF/MeOH/2N NaOH and heated at 70° C. for 45 minutes. The reaction is neutralized with HCl then the organics are removed and the aqueous layer is extracted with ethyl acetate. The combined organics is washed with water and brine and finally dried over Na2SO4. The resulting material is purified via column chromatography using 50% ethyl acetate in hexanes as the eluent to yield a white solid, which still contained an impurity. This material is dissolved into ethyl acetate and washed with saturated sodium bicarbonate. The ethyl acetate layer is concentrated to yield the desired product. HRMS: calcd for C26H20F3NO4+H, 468.14227; found (ESI, [M+H]+), 468.1428.

reactant | 4-Bromomethylphenylacetic acid | 8.13 mmol, 1.86 g | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
reactant | Cs2CO3 | 29.56 mmol, 9.63 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-[3-(hydroxymethyl)-8-(trifluoromethyl)quinolin-4-yl]phenol | 7.39 mmol, 2.36 g | OCC=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C17H12F3NO2
reactant | 4-bromomethylphenylacetic acid | 3 g | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
reactant | Cs2CO3 | 2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | [4-({3-[3-(HYDROXYMETHYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]ACETIC ACID | OCC=1C=NC2=C(C=CC=C2C1C=1C=C(OCC2=CC=C(C=C2)CC(=O)O)C=CC1)C(F)(F)F | C26H20F3NO4
